US06995176B2
Preparation of 3-(Phenylthio)-1H-indole
A solution of methyl phenyl sulfoxide (4.0 g, 147 mmol) in CH2Cl2 is cooled to −78° C., treated dropwise with trifluoroacetic anhydride (4.0 mL, 5.99 g, 28.5 mmol), stirred for 30 min at −78° C., treated with a solution of indole (1.82 g, 15.6 mmol) in CH2Cl2, stirred for 30 min at −78° C., treated with triethylamine (20 mL, 145 mmol), stirred for 4 days at ambient temperatures and diluted with water. The phases are separated. The organic phase is dried over MgSO4 and concentrated in vacuo. The resultant residue is chromatographed (1:99 methanol:CH2Cl2) to give the title product as a white solid, 3.08 g (88% yield), mp 149–151° C., characterized by mass spectral and HNMR analyses.

reactant | methyl phenyl sulfoxide | 147 mmol, 4.0 g | C1(=CC=CC=C1)S(=O)C | C7H8OS
reactant | trifluoroacetic anhydride | 28.5 mmol, 4.0 mL, 5.99 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | indole | 15.6 mmol, 1.82 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | triethylamine | 145 mmol, 20 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-(Phenylthio)-1H-indole | 88% yield | C1(=CC=CC=C1)SC1=CNC2=CC=CC=C12 | C14H11NS
